US08669280B2
Aqueous 5M potassium hydroxide (10 mL, 50 mmol) was added to a solution of methyl 3-benzoylcinnamate (2.5 g, 9.4 mmol) in methanol (20 mL) and the mixture was stirred at room temperature for 18 hours. The mixture was concentrated and acidified to pH 1 using 1M aqueous hydrochloric acid. The resulting precipitate was collected by filtration and dried under vacuum to give 3-benzoylcinnamic acid (2.2 g, 93%) as a yellow solid.

reactant | potassium hydroxide | 50 mmol, 5M, 10 mL | [OH-].[K+]
reactant | methyl 3-benzoylcinnamate | 9.4 mmol, 2.5 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC(=O)OC)C=CC1 | C17H14O3
solvent | methanol | 20 mL | CO | CH4O
product | 3-benzoylcinnamic acid | 2.2 g, 93% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC(=O)O)C=CC1 | C16H12O3
